US06391874B1
(1-(2-Fluoro-benzyl)-1H-indazol-5-yl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine
The title compound was prepared according to Procedure A from 1-(2-fluoro-benzyl)-1H-indazol-5-ylamine and 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.79(1H,bs), 9.53(1H,s), 8.89(1H,s), 8.77(1H,dd), 8.21(1H,s), 8.11(1H,m), 8.10(1H,d), 7.84(1H,d), 7.70(1H,dd), 7.37(1H,m), 7.24 (1H,m), 7.18 (2H,m), 5.76(2H,s); m/z (M+1+) 506.

reactant | 1-(2-fluoro-benzyl)-1H-indazol-5-ylamine | FC1=C(CN2N=CC3=CC(=CC=C23)N)C=CC=C1 | C14H12FN3
reactant | 4-chloro-6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C(F)(F)F | C11H4ClF3N4O
product | (1-(2-Fluoro-benzyl)-1H-indazol-5-yl)-(6-(5-trifluoromethyl-1,3,4-oxadiazol-2-yl)-quinazolin-4-yl)-amine | FC1=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=C(C=C23)C=2OC(=NN2)C(F)(F)F)C=CC=C1 | C25H15F4N7O
